US05705646
A. 3,5-Diethyl-1-(2,4,6-trimethylphenyl)pyrazole
A solution of 7.46 g (0.04 mol) of 2,4,6-trimethylphenylhydrazine hydrochloride, 5.12 g (0.40 mol) of 3,5-heptanedione and 4.18 mL (0.60 mol) of triethylamine in 100 mL of absolute ethanol was refluxed overnight. The solvent was evaporated from the cooled reaction mixture and the residues were partitioned between water and ethyl acetate. The organic extracts were dried with brine and magnesium sulfate, and the solvent was evaporated to give the desired product in 95% yield. This compound was used in the subsequent reaction without further purification 1H-NMR (CDCl3): 0.11 (3H, t, J=7), 1.24 (3H, t, J=7), 1.90 (6H, s), 2.22 (2H, q, J-7), 2.28 (3H, s), 2.65 ) (2H, q, J=7), 5.96 (1H, s), 6.86 (2H, s).

reactant | 2,4,6-trimethylphenylhydrazine hydrochloride | 0.04 mol, 7.46 g | Cl.CC1=C(C(=CC(=C1)C)C)NN
reactant | 3,5-heptanedione | 0.40 mol, 5.12 g | CCC(CC(CC)=O)=O | C7H12O2
reactant | triethylamine | 0.60 mol, 4.18 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3,5-Diethyl-1-(2,4,6-trimethylphenyl)pyrazole | 95% yield | C(C)C1=NN(C(=C1)CC)C1=C(C=C(C=C1C)C)C | C16H22N2
